### ISSUE TITLE
Breaking change in `rw` in Lean 3.11.0

### ISSUE THREAD

**Issue by cipher1024** [leanprover-community/lean#384]
### Prerequisites

* [ ] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover-community/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`rw` does not find occurrence of LHS of equation unless all the arguments are specified.

### Steps to Reproduce

The following code worked in 3.8, 3.9 and 3.10

```lean
inductive fin' : ℕ → Type
| raise {n : ℕ} : fin' n → fin' n.succ
| last {n : ℕ} : fin' n.succ

def fin'.elim0 {α} : fin' 0 → α .

universes u

def typevec (n : ℕ) := fin' n → Type*

def arrow {n} (α β : typevec n) := Π i : fin' n, α i → β i

infixl ` ⟹ `:40 := arrow
open nat

def append1 {n} (α : typevec n) (β : Type*) : typevec (n+1)
| (fin'.raise i) := α i
| fin'.last      := β

def repeat : Π (n : ℕ) (t : Sort*), typevec n
| 0 t := fin'.elim0
| (nat.succ i) t := append1 (repeat i t) t

def of_repeat : Π {n i} (x : repeat n Prop i), Prop
| (nat.succ n) (fin'.raise i) x := @of_repeat n i x
| (nat.succ n) fin'.last x := x

namespace typevec

def id {n} {α : typevec n} : α ⟹ α := λ i x, x

def drop {n} (α : typevec (n+1)) : typevec n := λ i, α i.raise

def last {n} (α : typevec (n+1)) : Type* := α fin'.last

end typevec

open typevec

def drop_fun {n} {α β : typevec (n+1)} (f : α ⟹ β) : drop α ⟹ drop β :=
λ i, f i.raise

infixl ` ::: `:67 := append1

def subtype_ : Π {n} {α : typevec.{u} n} (p : α ⟹ repeat n Prop), typevec n
| 0 α p := fin'.elim0
| (succ n) α p := @subtype_ n (drop α) (drop_fun p) ::: _root_.subtype (λ x, p fin'.last x)

def to_subtype : Π {n} {α : typevec.{u} n} (p : α ⟹ repeat n Prop), (λ (i : fin' n), { x // of_repeat $ p i x }) ⟹ subtype_ p
| (succ n) α p (fin'.raise i) x := to_subtype (drop_fun p) i x
| (succ n) α p fin'.last x := x

def of_subtype : Π {n} {α : typevec.{u} n} (p : α ⟹ repeat n Prop),
  subtype_ p ⟹ (λ (i : fin' n), { x // of_repeat $ p i x })
| (succ n) α p (fin'.raise i) x := of_subtype _ i x
| (succ n) α p fin'.last x := x

example {i_n : ℕ}
  (i_a : fin' i_n)
  {α : typevec i_n.succ}
  (p : α ⟹ repeat i_n.succ Prop)
  (x : subtype_ p i_a.raise) :
  to_subtype p i_a.raise (of_subtype p i_a.raise x) = id i_a.raise x :=
begin
  rw [of_subtype,to_subtype],
  admit
end
```

**Expected behavior:** [What you expect to happen]

The rewrite should succeed and the proof should be admitted.

**Actual behavior:** [What actually happens]

The second equation in `rw` fails.

**Reproduces how often:** [What percentage of the time does it reproduce?]
100%

### Versions

The code fails in the 3.11 release and succeeds in the 3.10 release on Mac OS X 10.15.5

Lean (version 3.10.0, commit 2c578165cc85, Release)
Lean (version 3.11.0, commit fb3f3e88be8a, Release)

You can get this information from copy and pasting the output of `lean --version`,
please include the OS and what version of the OS you're running.

### Additional Information

Any additional information, configuration or data that might be necessary to reproduce the issue.

**Comment by bryangingechen** [comment]
[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Porting.20Lean.20code.20to.20Lean.203.2E17.2E0)

**Comment by cipher1024** [comment]
Specifically, @digama0 pointed out that redefining `of_repeat` fixes the problem:

```lean
def of_repeat {n i} : repeat n Prop i → Prop :=
begin
  induction i with n i IH,
  { exact IH },
  { exact id }
end
```
